US07534273B2
Synthesis of 5-methyl-2-(2-pyridinyl)-2,4-dihydro-3H-pyrazol-3-one
0.5 g (4.44 mmol) of 2-hydrazinopyridine and 0.58 g (4.44 mmol) of acetoacetic ester are stirred in 15 ml of glacial acetic acid for 2 hours at 90° C. The mixture is then diluted with water and the precipitated crystals are filtered off with suction, washed again with water and dried under reduced pressure.

reactant | 2-hydrazinopyridine | 4.44 mmol, 0.5 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | water | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-methyl-2-(2-pyridinyl)-2,4-dihydro-3H-pyrazol-3-one | CC=1CC(N(N1)C1=NC=CC=C1)=O | C9H9N3O
